US03966723
2-dimethylaminomethyl-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine
The above-mentioned product is treated with methylformate in the same way once again (melting point N-formyl-N-methylamino-methyl compound: 117°-119°C) and reduced after that. Obtained in this manner: 3.4 g. Melting point (ax.): 2-dimethylaminomethyl-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine fumarate: 174°-176°C. Rf in methanol:acetone (9:1) = 0.40 on SiO2.

reactant | methylformate | COC=O | C2H4O2
reactant | 2-dimethylaminomethyl-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine fumarate | C(\C=C\C(=O)O)(=O)O.CN(C)CC1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1
solvent | methanol acetone | CO.CC(=O)C
product | 2-dimethylaminomethyl-1,2,3,4,10,14b-hexahydro-pyridino[1,2-a]-dibenzo[c,f]-azepine | CN(C)CC1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C21H26N2
